US05965730
To a solution of 2-bromo-4-(6,7-dimethoxy-2-methoxycarbonylmethylphthalazin-1(2H)-on-4-yl)pyridine (4.34 g) in tetrahydrofuran (20 ml) is added sodium borohydride (0.76 g), and further thereto is added dropwise with heating a mixture of methanol (3.2 ml) and tetrahydrofuran (5 ml) under reflux over a period of one hour. The reaction mixture is allowed to stand for cooling, and thereto is added water under ice-cooling. The mixture is extracted with chloroform, and the extract is washed, dried and concentrated. The residue is recrystallized from isopropyl ether to give 2-bromo-4-(6,7-dimethoxy-2-hydroxyethylphthalazin-1(2H)-on-4-yl)pyridine (3.08 g).

reactant | 2-bromo-4-(6,7-dimethoxy-2-methoxycarbonylmethylphthalazin-1(2H)-on-4-yl)pyridine | 4.34 g | BrC1=NC=CC(=C1)C1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CC(=O)OC | C18H16BrN3O5
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | methanol | 3.2 ml | CO | CH4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-bromo-4-(6,7-dimethoxy-2-hydroxyethylphthalazin-1(2H)-on-4-yl)pyridine | 3.08 g | BrC1=NC=CC(=C1)C1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CCO | C17H16BrN3O4
